US08703768B2
The product was obtained according to the method described in example 4, step 2 starting from 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester and 1,1,1-trifluoro-3-iodo-propane as a mixture of regioisomers which were separated by silica gel chromatography using a heptane/ethyl acetate gradient to yield 141 mg (31%) of the desired regioisomer and 68 mg (15%) of 4-nitro-1-(3,3,3-trifluoropropyl)-1H-pyrazole-3-carboxylic acid ethyl ester.

reactant | 4-nitro-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NNC=C1[N+](=O)[O-] | C6H7N3O4
reactant | 1,1,1-trifluoro-3-iodo-propane | FC(CCI)(F)F | C3H4F3I
product | 4-nitro-1-(3,3,3-trifluoropropyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 68 mg, 15% | C(C)OC(=O)C1=NN(C=C1[N+](=O)[O-])CCC(F)(F)F | C9H10F3N3O4
